US06770640B1
N-[Hexahydro-1-[1-(phenylmethyl)-1-carboxymethyl]-2-oxo-5-phenyl-1H-azepin-3-yl]-1,3-dihydro-α-mercapto-1,3-dioxo-2H-isoindole-2-hexanamide
Combine N-[hexahydro-1-[1-(phenylmethyl)-1-t-butoxycarbonylmethyl]-2-oxo-5-phenyl-1H-azepin-3-yl]-1,3-dihydro-a-(p-methoxybenzylthio)-1,3-dioxo-2H-isoindole-2-hexanamide (0.16 g, 0.20 mmol), mercury (II) acetate (0.084 g, 0.26 mmol), and anisole (0.23 mL, 2.1 mmol) in dichloromethane (6.6 mL). Cool in an ice bath and degas by repeatedly cycles of vacuum and filling the vessel with nitrogen gas. Add trifluoroacetic acid (2.5 mL). After 1 hour, warm to ambient temperature. After 3 hours, purge with hydrogen sulfide (gas) for about 10 minutes. Filter and evaporate in vacuo to give a residue. Repeatedly, combine the residue and carbon tetrachloride and evaporate in vacuo to give the title compound.

reactant | N-[hexahydro-1-[1-(phenylmethyl)-1-t-butoxycarbonylmethyl]-2-oxo-5-phenyl-1H-azepin-3-yl]-1,3-dihydro-a-(p-methoxybenzylthio)-1,3-dioxo-2H-isoindole-2-hexanamide | 0.20 mmol, 0.16 g | C1(=CC=CC=C1)CC(C(=O)OC(C)(C)C)N1C(C(CC(CC1)C1=CC=CC=C1)NC(C(CCCCN1C(C2=CC=CC=C2C1=O)=O)SCC1=CC=C(C=C1)OC)=O)=O | C47H53N3O7S
reactant | anisole | 2.1 mmol, 0.23 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 6.6 mL | ClCCl | CH2Cl2
catalyst | mercury (II) acetate | 0.26 mmol, 0.084 g | C(C)(=O)[O-].[Hg+2].C(C)(=O)[O-]
product | N-[Hexahydro-1-[1-(phenylmethyl)-1-carboxymethyl]-2-oxo-5-phenyl-1H-azepin-3-yl]-1,3-dihydro-α-mercapto-1,3-dioxo-2H-isoindole-2-hexanamide | C1(=CC=CC=C1)CC(C(=O)O)N1C(C(CC(CC1)C1=CC=CC=C1)NC(C(CCCCN1C(C2=CC=CC=C2C1=O)=O)S)=O)=O | C35H37N3O6S
